US08304419B2
Step C: (4-chloro-2-ethyl-1H-imidazol-5-yl)methanol
A solution of 4-chloro-2-ethyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole (2.51 g, 10.0 mmol) and methanesulfonic acid (25 mL, 385 mmol) in chloroform (56 mL) was stirred at RT for 1 h. The reaction mixture was poured into ice (˜100 g) and the solution was neutralized by addition of 5N NaOH until the pH was 10. The solution was extracted with methyl tert-butyl ether (2×100 mL) and then with n-butanol (3×100 mL). The combined n-butanol extracts were concentrated, azeotroped with toluene, and dried in vacuo to provide the title compound in quantitative yield as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.10 (br. s., 1H), 5.10 (br. s., 1H), 4.32 (s, 2H), 2.54 (q, 2H), 1.15 (t, 3H).

reactant | 4-chloro-2-ethyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole | 10.0 mmol, 2.51 g | ClC=1N=C(NC1COCC1=CC=CC=C1)CC | C13H15ClN2O
reactant | methanesulfonic acid | 385 mmol, 25 mL | CS(=O)(=O)O | CH4O3S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | chloroform | 56 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-chloro-2-ethyl-1H-imidazol-5-yl)methanol | quantitative yield | ClC=1N=C(NC1CO)CC | C6H9ClN2O
